US04978753
In the manner given in Example 32, 1-carbomethoxy-9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin3(5H)-one was heated in pyridine with lithium iodide to give 9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 1-carbomethoxy-9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin3(5H)-one | C(=O)(OC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-])=O | C20H13ClN4O5
reactant | lithium iodide | [I-].[Li+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3)Cl)C1 | C18H11ClN4O3
